US06562840B1
4-(2-{[4-(Dimethylamino)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxamidine hydrochloride: Methyl 4-(2-{([4-(dimethylamino)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide (50 mg, 0.10 mmol) was treated as described in Example 154, step (b) to give 9.4 mg (22% yield) of 4-{2-[(4-methoxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine hydrochloride. 1H NMR (DMSO-d6, 300 MHz) 2.70 (s, 3H), 2.84 (s, 6H), 6.75 (d, 2H, J=9.2 Hz), 7.00 (s, 1H), 7.56 (d, 2H, J=9.1 Hz), 8.31 (s, 1H), 8.68 (bs, 3H), 9.92 (bs, 1H).

reactant | 4-(2-{[4-(Dimethylamino)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxamidine hydrochloride | Cl.CN(C1=CC=C(C=C1)NC=1SC=C(N1)C=1C=C(SC1SC)C(=N)N)C
reactant | 2-{([4-(dimethylamino)phenyl]amino}(1,3-thiazol-4-yl))-5-methylthiothiophene-2-carboxylate hydrobromide | 0.10 mmol, 50 mg | Br.CN(C1=CC=C(C=C1)NC=1SC=C(N1)C1(SC(=CC1)C)C(=S)O)C
product | 4-{2-[(4-methoxyphenyl)amino](1,3-thiazol-4-yl)}-5-methylthiothiophene-2-carboxamidine hydrochloride | 9.4 mg, 22% yield | Cl.COC1=CC=C(C=C1)NC=1SC=C(N1)C=1C=C(SC1SC)C(=N)N | InChI=1S/C16H16N4OS3.ClH/c1-21-10-5-3-9(4-6-10)19-16-20-12(8-23-16)11-7-13(14(17)18)24-15(11)22-2;/h3-8H,1-2H3,(H3,17,18)(H,19,20);1H
